US04038396
A mixture of 300 mg. of 5-amino-2-phenyloxazolo[ 5,4-b]pyridine and 3 ml. of pyridine was cooled in ice and to it was added 0.2 ml. of isopropylchloroformate. The mixture was allowed to age in the refrigerator for 5 days, and diluted with ice and water. The precipitate was collected and recrystallized from isopropanol to give 5-isopropoxycarbonylamino-2-phenyloxazolo[ 5,4-b]pyridine, m.p. 210°-211° C.

reactant | 5-amino-2-phenyloxazolo[ 5,4-b]pyridine | NC1=CC=C2C(=N1)OC(=N2)C2=CC=CC=C2 | C12H9N3O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | water | O | H2O
product | 5-isopropoxycarbonylamino-2-phenyloxazolo[ 5,4-b]pyridine | C(C)(C)OC(=O)NC1=CC=C2C(=N1)OC(=N2)C2=CC=CC=C2 | C16H15N3O3
